US07223769B2
In 4 ml of tetrahydrofuran was suspended 0.11 g of sodium hydride (60% in oil), to which 0.5 ml of a solution containing 0.23 g of 3,3-dimethyl-1-butanol was added dropwise at 0° C., followed by stirring for 10 minutes. To this was added dropwise 0.5 ml of tetrahydrofuran containing 0.3 g of 4,6-dichloropyrimidine dissolved therein, followed by stirring at the same temperature for 4 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution, which was extracted three times with t-butyl methyl ether. The combined organic layers were washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.41 g of 4-chloro-6-(3,3-dimethylbutyloxy)pyrimidine.

reactant | sodium hydride | 0.11 g | [H-].[Na+]
reactant | 3,3-dimethyl-1-butanol | 0.23 g | CC(CCO)(C)C | C6H14O
reactant | 4,6-dichloropyrimidine | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 ml, 0.3 g | O1CCCC1 | C4H8O
product | 4-chloro-6-(3,3-dimethylbutyloxy)pyrimidine | 0.41 g | ClC1=NC=NC(=C1)OCCC(C)(C)C | C10H15ClN2O
